US07109186B2
Compound 120-B: N-(3,5-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide
To a stirred solution of (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride (0.96 g, 5 mmol) in CH2Cl2 (20 mL) was added a solution of 3,5-dichlorobenzyl-methylamine hydrochloride (1.133 g, 5 mmol) and Et3N (2 mL) in CH2Cl2 (25 mL). The addition flask was rinsed with CH2Cl2 (5 mL) and added to the reaction mixture. After 2 h, the reaction mixture was concentrated and the resulting residue was triturated with ether (100 mL), filtered and concentrated to give the desired product as a viscous brown oil (1.70 g, 100% yield). 1HNMR (300 MHz, CDCl3) δ: 7.30–7.27 (1H, m), 7.16 (1.5H, br s), 7.06 (0.5H, s), 6.17 (0.66H, s), 6.07 (0.34H, s), 4.59 (1.33H, s), 4.53 (0.67H, s), 3.03 (2H, s), 2.97 (1H, s), 1.74 (4H, s), 1.70 (2H,s).

reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride | 5 mmol, 0.96 g | CC1(OC(C(O1)=CC(=O)Cl)=O)C | C7H7ClO4
reactant | 3,5-dichlorobenzyl-methylamine hydrochloride | 5 mmol, 1.133 g | Cl.ClC=1C=C(CNC)C=C(C1)Cl
reactant | Et3N | 2 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide | 1.70 g, 100% yield | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)C)C=C(C1)Cl | C15H15Cl2NO4
